US07211577B2
Preparation of 2-cyclopropylmethyl-4-dimethylaminomethyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-cyclopropylmethyl-4-methanesulfonyloxymethyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one and dimethylamine were reacted to yield the title compound as a yellow oil (yield: 65.6%).

reactant | 2-cyclopropylmethyl-4-methanesulfonyloxymethyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one | C1(CC1)CN1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)S(=O)(=O)C | C17H20N2O6S2
reactant | dimethylamine | CNC | C2H7N
product | 2-cyclopropylmethyl-4-dimethylaminomethyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one | yield: 65.6% | C1(CC1)CN1N=C(C=C(C1=O)CN(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C18H23N3O3S
